US03965107
A mixture of 150 g (1.5 m) of 4-methoxy-3-buten-2-one, 126 g (1.5 m) of α-cyanoacetamide, and catalyst (6 cc of glacial acetic acid in 15 cc of water made basic with piperidine) in 750 cc of methyl cellosolve is refluxed and stirred for 3 hours. The solution which forms is concentrated in vacuo and the residue semi-solid is boiled in an excess of isopropanol and filtered hot. The first crop is dried to afford a 94.5 g (47%) yield of 3-cyano-6-methyl-2-pyridone, m.p. 245-246 dec. A mixture of 72 g (.537 m) of this product and 600 cc of 12N hydrochloric acid is refluxed and stirred for 6 hours. The solution is allowed to stand at room temperature for 3 days and is concentrated in vacuo. The residue solid is recrystallized with ethanol to afford a 43 g (52.5%) yield of 1H, 3-carboxy-6 -methylpyridin-2-one, m.p. 226°.

reactant | 4-methoxy-3-buten-2-one | 150 g | COC=CC(C)=O | C5H8O2
reactant | α-cyanoacetamide | 126 g | C(#N)CC(=O)N | C3H4N2O
reactant | acetic acid | 6 cc | C(C)(=O)O | C2H4O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | water | 15 cc | O | H2O
solvent | methyl cellosolve | 750 cc | COCCO | C3H8O2
product | 3-cyano-6-methyl-2-pyridone | C(#N)C=1C(NC(=CC1)C)=O | C7H6N2O
